US08030334B2
3-Ethynylpyridine and 3-fluoro-6-iodoaniline are processed according to the method described in Example 86 to give 6-fluoro-2-pyridin-3-yl-1H-indole. MS (ESI) m/z 213.0 (M+H)+.

reactant | 3-Ethynylpyridine | C(#C)C=1C=NC=CC1 | C7H5N
reactant | 3-fluoro-6-iodoaniline | FC=1C=C(N)C(=CC1)I | C6H5FIN
product | 6-fluoro-2-pyridin-3-yl-1H-indole | FC1=CC=C2C=C(NC2=C1)C=1C=NC=CC1 | C13H9FN2
